US07294636B2
4-Amino-1-benzylpiperidine (87 g) was added slowly during 20 minutes to a stirred mixture of 2-fluoro-5-methylsulphonyl-nitrobenzene (100 g) and anhydrous sodium carbonate (35 g) in 500 mL DMSO, the internal temperature rose from 20° C. to 50° C. The mixture was stirred at 90° C. for 12 hours, then poured into ice/water and the yellow solid was filtered off, redissolved in dichloromethane, dried and evaporated to give 175 g N-(1-benzylpiperidin-4-yl)-2-nitro-4-methylsulphonylaniline.

reactant | 4-Amino-1-benzylpiperidine | 87 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | 2-fluoro-5-methylsulphonyl-nitrobenzene | 100 g | FC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6FNO4S
reactant | sodium carbonate | 35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 500 mL | CS(=O)C | C2H6OS
product | N-(1-benzylpiperidin-4-yl)-2-nitro-4-methylsulphonylaniline | 175 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C19H23N3O4S
